US09260413B2
2-chloro-5-methoxypyrimidin-4(3H)-one
To a solution of 2-chloro-5-methoxy-4-(prop-2-en-1-yloxy)pyrimidine (95.0 g, 475 mmol) in anhydrous DCM (2 L) under nitrogen atmosphere was added morpholine (124 mL, 1.425 moL) and then Pd(Ph3P)4 (13.7 g, 11.9 mmol) and the reaction mixture was stirred at room temperature for 15 min. The reaction mixture was concentrated until thick, then poured into EtOAc. The precipitate was collected and dried to give 52 g of a mixture of 2-chloro-5-methoxypyrimidin-4(3H)-one and morpholine (1:1). 1H-NMR (CDC3, 400 MHz) δ 7.45 (s, 1H), 3.67 (s, 3H). MS (ESI) m/z (M+H)+ 161.0.

reactant | 2-chloro-5-methoxy-4-(prop-2-en-1-yloxy)pyrimidine | 475 mmol, 95.0 g | ClC1=NC=C(C(=N1)OCC=C)OC | C8H9ClN2O2
reactant | morpholine | 124 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 2 L | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 11.9 mmol, 13.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-5-methoxypyrimidin-4(3H)-one | 52 g | ClC1=NC=C(C(N1)=O)OC | C5H5ClN2O2
